US05204352
Preparation of 6-Methyl-2-(4'-cyanophenyl)imidazo-[1,2-a]pyridine
6-Methyl-2-(4'-bromophenyl)imidazo[1,2-a]pyridine (6.0 g) was mixed with 3.0 g of CuCN and 50 ml DMF. The mixture was refluxed for 24 hrs. The hot solution was then poured into a (1:4) ethylenediamine-water mixture (200 ml). Using chloroform, the compound was extracted. The chloroform layer was washed with water, dried and evaporated. The residue was crystallized and recrystallized from ethanol; yield; 3.4 g (69%); mp 225°-226° C.

reactant | 6-Methyl-2-(4'-bromophenyl)imidazo[1,2-a]pyridine | 6.0 g | CC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C=C2)Br | C14H11BrN2
reactant | CuCN | 3.0 g | C(#N)[Cu]
reactant | ethylenediamine water | 200 ml | C(CN)N.O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 6-Methyl-2-(4'-cyanophenyl)imidazo-[1,2-a]pyridine | CC=1C=CC=2N(C1)C=C(N2)C2=CC=C(C=C2)C#N | C15H11N3
